US07384963B2
N-(4-Methoxy-3-methylphenyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carbonyl chloride and 4-methoxy-3-methylaniline using method K. NMR; δH [2H6]—DMSO 10.14,(1H, b), 8.05,(2H, d), 7.90,(1H, dd), 7.57-7.55,(5H, m), 6.92,(1H, d), 3.77,(3H, s), 2.57,(3H, s), 2.33,(3H, s), 2.16,(3H, s). LCMS; retention time 3.53 min, MH+ 414.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carbonyl chloride | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)Cl | C17H13ClN2O2
reactant | 4-methoxy-3-methylaniline | COC1=C(C=C(N)C=C1)C | C8H11NO
product | N-(4-Methoxy-3-methylphenyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | COC1=C(C=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)C | C25H23N3O3
